US06605255B2
Infusion Solution Containing Repinotan Hydrochloride
A ready-to-use infusion solution is prepared from the freeze-dried product according to Example 1 by reconstituting the lyophilizate with the aid of a 0.9% by weight NaCl solution and then diluting with this solution to a total volume of 500 ml. The ready-to-use solution is chemically stable on storage for at least 30 h at room temperature, i.e. the solution then still contains at least 90% unchanged repinotan.

reactant | NaCl | [Na+].[Cl-]
reactant | repinotan | C=1C=CC2=C(C1)CC[C@@H](O2)CNCCCCN3C(=O)C=4C=CC=CC4S3(=O)=O | C21H24N2O4S
product | Repinotan Hydrochloride | C1CC2=CC=CC=C2O[C@H]1CNCCCCN3C(=O)C4=CC=CC=C4S3(=O)=O.Cl | InChI=1S/C21H24N2O4S.ClH/c24-21-18-8-2-4-10-20(18)28(25,26)23(21)14-6-5-13-22-15-17-12-11-16-7-1-3-9-19(16)27-17;/h1-4,7-10,17,22H,5-6,11-15H2;1H/t17-;/m1./s1
